US04916148
A mixture of 8-bromomethyl-1,1-dimethyl-2(1H)-naphtho[2,1-b]furanone (0.46 g), 4-methyl-1-tritylimidazole (0.49 g) and acetonitrile (2 ml) was heated under reflux for 18 h, then evaporated to dryness. The residue was treated with glacial acetic acid (4 ml) and water (1 ml), and the mixture was heated at 90° for 0.5 h. The mixture was diluted with water (20 ml) and washed with diethyl ether. The aqueous phase was separated, basified with potassium hydrogen carbonate and extracted twice with ethyl acetate. The extracts were combined, dried and evaporated to dryness, and the residue was purified by flash chromatography, eluting with methanol:ethyl acetate, 1:99 v/v, to give 1,1-dimethyl-8-(5-methylimidazol-1-ylmethyl)-2(1H)-naphtho[2,1-b]furanone, m.p. 88°-91°.

reactant | 8-bromomethyl-1,1-dimethyl-2(1H)-naphtho[2,1-b]furanone | 0.46 g | BrCC1=CC=C2C=CC=3OC(C(C3C2=C1)(C)C)=O | C15H13BrO2
reactant | 4-methyl-1-tritylimidazole | 0.49 g | CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1,1-dimethyl-8-(5-methylimidazol-1-ylmethyl)-2(1H)-naphtho[2,1-b]furanone | CC1(C2=C(OC1=O)C=CC1=CC=C(C=C12)CN1C=NC=C1C)C | C19H18N2O2
